US09034866B2
Synthesis of (±)-3-((1,3-dimethyl-1H-pyrazol-4-yl)(hydroxy)methyl)-9-fluoro-10-(3-hydroxy-3-methylbut-1-yn-1-yl)-5,6-dihydrobenzo[f]imidazo[1,2-d][1,4]oxazepine-2-carboxamide
3-((1,3-dimethyl-1H-pyrazol-4-yl)(hydroxy)methyl)-9-fluoro-10-(3-hydroxy-3-methylbut-1-yn-1-yl)-5,6-dihydrobenzo[f]imidazo[1,2-d][1,4]oxazepine-2-carboxamide was prepared similarly according to General Procedure G with slight modifications. 10-bromo-3-((1,3-dimethyl-1H-pyrazol-4-yl)(hydroxy)methyl)-9-fluoro-5,6-dihydrobenzo[f]imidazo[1,2-d][1,4]oxazepine-2-carboxamide was reacted with 3-methyl-1-butyne-3-ol to afford 11.3 mg of the titled compound (19% yield). M+1=436.1. 1H NMR (400 MHz, DMSO) δ 8.58 (d, J=8.5 Hz, 1H), 7.87 (br s, 1H), 7.40 (br s, 1H), 7.25 (s, 1H), 6.99 (d, J=10.5 Hz, 1H), 6.72 (d, J=6.3 Hz, 1H), 6.52 (d, J=6.2 Hz, 1H), 5.54 (s, 1H), 4.58-4.25 (m, 4H), 3.65 (s, 3H), 2.06 (s, 3H), 1.49 (s, 6H).

reactant | 10-bromo-3-((1,3-dimethyl-1H-pyrazol-4-yl)(hydroxy)methyl)-9-fluoro-5,6-dihydrobenzo[f]imidazo[1,2-d][1,4]oxazepine-2-carboxamide | BrC=1C(=CC2=C(C=3N(CCO2)C(=C(N3)C(=O)N)C(O)C=3C(=NN(C3)C)C)C1)F | C18H17BrFN5O3
reactant | 3-methyl-1-butyne-3-ol | CC(C#C)(C)O | C5H8O
product | (±)-3-((1,3-dimethyl-1H-pyrazol-4-yl)(hydroxy)methyl)-9-fluoro-10-(3-hydroxy-3-methylbut-1-yn-1-yl)-5,6-dihydrobenzo[f]imidazo[1,2-d][1,4]oxazepine-2-carboxamide | 11.3 mg, 19% yield | CN1N=C(C(=C1)C(C1=C(N=C2N1CCOC1=C2C=C(C(=C1)F)C#CC(C)(C)O)C(=O)N)O)C | C23H24FN5O4
